US08017630B2
The more polar diastereoisomer of 2-[4-dimethylamino-4-(3-fluorophenyl)cyclohexyl]-N-[2-(1H-indol-3-yl)-1-methylethyl]acetamide (139 mg, 0.32 mmol) was dissolved in ethanol (10 ml) with gentle heating, 5 M isopropanolic hydrochloric acid (0.096 ml, 0.48 mmol) was added and the mixture was stirred at RT for 2 h. The clear solution was concentrated to approx. 1 ml and the residue was stirred with ether (10 ml) for 20 h. The solid thereby formed was filtered off with suction. The more polar diastereoisomer of 2-[4-dimethylamino-4-(3-fluorophenyl)cyclohexyl]-N-[2-(1H-indol-3-yl)-1-methylethyl]acetamide hydrochloride was obtained in this way as a pink-coloured solid in a yield of 93.5 mg (62%).

reactant | 2-[4-dimethylamino-4-(3-fluorophenyl)cyclohexyl]-N-[2-(1H-indol-3-yl)-1-methylethyl]acetamide | 0.32 mmol, 139 mg | CN(C1(CCC(CC1)CC(=O)NC(CC1=CNC2=CC=CC=C12)C)C1=CC(=CC=C1)F)C | C27H34FN3O
reactant | hydrochloric acid | 0.48 mmol, 5 M, 0.096 ml | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2-[4-dimethylamino-4-(3-fluorophenyl)cyclohexyl]-N-[2-(1H-indol-3-yl)-1-methylethyl]acetamide hydrochloride | Cl.CN(C1(CCC(CC1)CC(=O)NC(CC1=CNC2=CC=CC=C12)C)C1=CC(=CC=C1)F)C | InChI=1S/C27H34FN3O.ClH/c1-19(15-21-18-29-25-10-5-4-9-24(21)25)30-26(32)16-20-11-13-27(14-12-20,31(2)3)22-7-6-8-23(28)17-22;/h4-10,17-20,29H,11-16H2,1-3H3,(H,30,32);1H
